US04588722
A mixture of 0.8 parts of isothiocyanatomethane, 4 parts of N-([1,3'-bipiperidin]-4-yl)-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine and 90 parts of tetrahydrofuran was stirred overnight at room temperature. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 3.7 parts (77%) of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-N-methyl-[1,3'-bipiperidine]-1'-carbothioamide; mp. 218.8° C. (compound 37).

reactant | isothiocyanatomethane | N(=C=S)C | C2H3NS
reactant | N-([1,3'-bipiperidin]-4-yl)-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | N1(CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)C2CNCCC2 | C24H30FN5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-N-methyl-[1,3'-bipiperidine]-1'-carbothioamide | 77% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C2CN(CCC2)C(NC)=S | C26H33FN6S
